* inverter example circuit for control language tutorial
Vcc cc 0 2.000
Vin in 0 dc 0 pulse (0 2 95n 2n 2n 90n 180n)
Mn1 out in 0 0 nm W=2u L=0.18u
Mp1 out in cc cc pm W=4u L=0.18u

.model nm nmos level=14 version=4.8.1
.model pm pmos level=14 version=4.8.1
.save v(out) v(in) i(vcc)
.tran 100p 50n
.end

.control
unset askquit
set filetype = ASCII
run                                         ; run the .tran command
write {path} v(out) v(in) i(vcc)
.endc
